US05025025
To a solution of 0.312 g methyl 8-(p-chlorophenylsulfonamido)-4-[3-(3-pyridyl)-propyl]-octanoate in 5 mL isopropanol is added a solution of a catalytic amount of sodium hydride in 1 mL isopropanol. The mixture is refluxed for 18 hours and the solvent is evaporated. The residue is dissolved in methylene chloride and the solution is washed with saturated ammonium chloride solution. The organic phase is dried, filtered, evaporated to give a clear oil which is purified by flash column chromatography using ethyl acetate and hexane (2:3) as the eluent to give as a clear oil isopropyl 8-(p-chlorophenylsulfonamido)-4-[3-(3-pyridyl)-propyl]-octanoate.

reactant | methyl 8-(p-chlorophenylsulfonamido)-4-[3-(3-pyridyl)-propyl]-octanoate | 0.312 g | ClC1=CC=C(C=C1)S(=O)(=O)NCCCCC(CCC(=O)OC)CCCC=1C=NC=CC1 | C23H31ClN2O4S
reactant | sodium hydride | [H-].[Na+]
reactant | isopropanol | 5 mL | C(C)(C)O | C3H8O
reactant | isopropanol | 1 mL | C(C)(C)O | C3H8O
product | isopropyl 8-(p-chlorophenylsulfonamido)-4-[3-(3-pyridyl)-propyl]-octanoate | ClC1=CC=C(C=C1)S(=O)(=O)NCCCCC(CCC(=O)OC(C)C)CCCC=1C=NC=CC1 | C25H35ClN2O4S
